US07777042B2
Methyl iodide (4.00 mL, 64.2 mmoles) was added to a room temperature solution of (S)-2-[(S)-1-tert-Butoxycarbonyl-2-(4-hydroxy-phenyl)-ethylcarbamoyl]-piperidine-1-carboxylic acid benzyl ester (1.39 g, 2.88 mmoles) and cesium carbonate (1.87 g, 5.75 mmoles) in DMF (10 mL) and the mixture stirred at room temperature for 4 days. The reaction mixture was diluted with EtOAc (200 mL) and washed with brine (3×200 mL). The aqueous layers were re-extracted with EtOAc (2×200 mL). The organic layers were dried (Na2SO4), combined, and concentrated in vacuo to give a yellow oil. Purification of the residue by flash chromatography, eluting with 0-10% EtOAc/CH2Cl2 afforded 0.71 g (50% yield) of (S)-2-[(S)-1-tert-Butoxycarbonyl-2-(4-methoxy-phenyl)-ethylcarbamoyl]-piperidine-1-carboxylic acid benzyl ester, as a colorless oil.

reactant | Methyl iodide | 64.2 mmoles, 4.00 mL | CI | CH3I
reactant | (S)-2-[(S)-1-tert-Butoxycarbonyl-2-(4-hydroxy-phenyl)-ethylcarbamoyl]-piperidine-1-carboxylic acid benzyl ester | 2.88 mmoles, 1.39 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCCC1)C(N[C@@H](CC1=CC=C(C=C1)O)C(=O)OC(C)(C)C)=O | C27H34N2O6
reactant | cesium carbonate | 5.75 mmoles, 1.87 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | (S)-2-[(S)-1-tert-Butoxycarbonyl-2-(4-methoxy-phenyl)-ethylcarbamoyl]-piperidine-1-carboxylic acid benzyl ester | 0.71 g, 50% yield | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCCC1)C(N[C@@H](CC1=CC=C(C=C1)OC)C(=O)OC(C)(C)C)=O | C28H36N2O6
